US07799822B2
Synthesized according to general procedure 71. A solution of 2,2,2-trifluoro-N-(2-fluoro-4-(N-thiazol-2-ylsulfamoyl)phenyl)acetamide (2.0 g, 5.42 mmol), NaOH (2.17 g, 54.2 mmol), and H2O (9.7 mL) was stirred at RT for 1 h, then cooled to 0° C. 1 N hydrochloric acid (54.2 mL, 54.2 mmol) was added, and the reaction was stirred at 0° C. for 20 min. The formed precipitate was filtered off and dried under vacuum to give 4-amino-3-fluoro-N-(thiazol-2-yl)benzenesulfonamide (1.03 g, 70%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=274.1; tR=0.51 min

reactant | 2,2,2-trifluoro-N-(2-fluoro-4-(N-thiazol-2-ylsulfamoyl)phenyl)acetamide | 5.42 mmol, 2.0 g | FC(C(=O)NC1=C(C=C(C=C1)S(NC=1SC=CN1)(=O)=O)F)(F)F | C11H7F4N3O3S2
reactant | NaOH | 54.2 mmol, 2.17 g | [OH-].[Na+]
reactant | hydrochloric acid | 54.2 mmol, 1 N, 54.2 mL | Cl | ClH
solvent | H2O | 9.7 mL | O | H2O
product | 4-amino-3-fluoro-N-(thiazol-2-yl)benzenesulfonamide | 1.03 g, 70% | NC1=C(C=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C9H8FN3O2S2
